US07572928B2
(4R)-4-benzyl-3-[(2R,3E)-2-methyl-5-(trimethylsilyl)pent-3-enoyl]-1,3-oxazolidin-2-one
To a solution of (4R)-4-benzyl-3-[(2R)-2-methylbut-3-enoyl]-1,3-oxazolidin-2-one (0.65 mmol, 170 mg) and allyltrimethyl silane (1.9 mmol, 0.31 mL) in DCM (2 mL) at reflux was added 5 mol % of Grubbs' second generation catalyst (28 mg). After 72 hrs the solvent was removed in vacuo. The crude product was purified by column chromatography to a colourless oil. (83 mg, 77%) E/Z 3:1. NMR data of the mixture of E/Z isomers. 1H NMR (400 MHz, CDCl3): δ=7.21-7.36 (m, 5H), 5.64 (dt, J=8.1, 15.4, 1H), 5.41-5.58, (m, 2 HZ) 5.32-5.39 (m, 1H), 4.68-4.78 (m, 1 HZ) 4.59-4.68 (m, 1H), 4.38-4.48 (m, 1H), 4.14-4.19 (m, 2H), 3.30 (dd, J=3.28, 13.14, 1H), 2.78 (dd, J=9.6, 13.14, 1H), 1.48-1.63 (m, 2 HZ), 1.46 (d, J=8.1, 2H), 1.31 (d, J=6.8, 3 HZ), 1.30 (d, J=6.8, 3H), 0.0 (s, 9 HZ), −0.02 (s, 9H); 13C NMR (100 MHz, CDCl3): δ=175.5, 152.3, 135.4Z or E, 135.3Z or E, 129.7Z or E, 129.5Z or E, 128.9Z or E, 128.1Z, 127.3, 126.9, 126.1Z, 66.03, 66.0Z, 55.6, 55.5Z, 40.9, 37.9, 37.8Z, 35.8Z, 22.9, 19.0Z, 17.9, −1.8Z, −1.9; IR (CHCl3): v 2955, 1783, 1699, 1454, 1381, 853; HMRS required for C19H27NO3Si ([M+H]+) 346.1838 found 346.1847; [α]D23=−131.6 (c, 2, CHCl3).

reactant | (4R)-4-benzyl-3-[(2R)-2-methylbut-3-enoyl]-1,3-oxazolidin-2-one | 0.65 mmol, 170 mg | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C=C)C)=O | C15H17NO3
reactant | allyltrimethyl silane | 1.9 mmol, 0.31 mL | C(C=C)[Si](C)(C)C | C6H14Si
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Grubbs' second generation | 28 mg | Cl[Ru]([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)(=CC4=CC=CC=C4)(Cl)=C5N(C6=C(C)C=C(C)C=C6C)CCN5C7=C(C)C=C(C)C=C7C
product | (4R)-4-benzyl-3-[(2R,3E)-2-methyl-5-(trimethylsilyl)pent-3-enoyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](\C=C\C[Si](C)(C)C)C)=O | C19H27NO3Si
